US06455502B1
A mixture comprised of 2R-benzoylamino-3-benzylsulfanylpropionic acid (0.508 g, 1.61 mmol), aminoacetonitrile hydrochloride (0.149 g, 1.61 mmol), PyBOP® (0.838 g, 1.61 mmol), N,N-diisopropylethylamine (0.84 mL, 4.83 mmol) and DMF (10 mL) was stirred at room temperature for 2.5 hours. The mixture was concentrated and the residue was taken up into dichloromethane. The dichloromethane mixture was washed with 1N hydrochloric acid, water and aqueous sodium bicarbonate, dried (MgSO4), filtered and concentrated. Product was purified from the residue by silica gel chromatography using 5% methanol in dichloromethane to provide N-(2-benzylsulfanyl-1R-cyanomethylcarbamoyl)ethyl)benzamide (541 mg, 1.53 mmol) as an oil. MS: m/e 353.8 (theory 353.1); Proton NMR Spectrum (DMSO-d6): δ 8.85 (t, 1H), δ 8.75 (d, 1H), δ 7.99 (d, 2H), 7.5 (m, 3H), δ 7.3 (m, 5H), δ 4.7 (m, 1H), δ 4.15 (d, 2H), δ 3.75 (s, 2H), δ 2.8 (m, 2H) ppm.

reactant | aminoacetonitrile hydrochloride | 1.61 mmol, 0.149 g | Cl.NCC#N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 4.83 mmol, 0.84 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | benzamide | 1.53 mmol, 541 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
